US04958026
530 mg of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dipropylamine is heated under reflux for one hour with 30 ml of tetrahydrofuran and 500 mg of N,N'-carbonyldiimidazole. After concentration, the residue is combined with methanol and water, again concentrated, and dried over phosphorus pentoxide, yielding 530 mg of 7-methoxy-4-[2-(N,N-dipropylamino)ethyl]-2,3-dihydro-2-benzimidazolone, mp 35° C.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dipropylamine | 530 mg | NC1=C(C=CC(=C1N)OC)CCN(CCC)CCC | C15H27N3O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-methoxy-4-[2-(N,N-dipropylamino)ethyl]-2,3-dihydro-2-benzimidazolone | 530 mg | COC1=CC=C(C2=C1NC(N2)=O)CCN(CCC)CCC | C16H25N3O2
